US04317920
3.2 g. of [5-methyl-2-(1-carboxy-1-ethyl)-phenyl]-(1-phenyl)-5-tetrazolyl ether are dissolved in 100 ml. of benzene and to the solution obtained 0.8 g. of a 5% palladium-on-charcoal catalyst are added. The mixture is hydrogenated at 35° to 40° C., under a pressure of 2.8 atm., until the calculated amount of hydrogen is used up. The catalyst is filtered off and washed with hot ethanol. The filtrate is evaporated and the residue is treated with a 5% aqueous sodium carbonate solution. After filtration the filtrate is acidified with a 20% aqueous hydrochloric acid solution and the separated oil is extracted with chloroform. The chloroform solution is dried over sodium sulphate and evaporated. 1.4 g. (85%) of 4-methyl-hydratropic acid are obtained.

reactant | [5-methyl-2-(1-carboxy-1-ethyl)-phenyl]-(1-phenyl)-5-tetrazolyl ether | CC=1C=CC(=C(C1)N1N(C(=NN1)OC1=NNN(N1C1=CC=CC=C1)C1=C(C=CC(=C1)C)C(C)C(=O)O)C1=CC=CC=C1)C(C)C(=O)O | C34H34N8O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-methyl-hydratropic acid | 85% | CC1=CC=C(C(C(=O)O)C)C=C1 | C10H12O2
